US05541229
tert.butyl 4'-[(2-n-butyl-6-cyclohexylaminocarbonyloxy-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate melting point: 76°-78° C. (amorphous)
tert.butyl 4'-[(2-n-butyl-6-(N-methylaminocarbonyl-N-(3-cyclohexyl-n-propyl)-amino)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate oil, Rf value: 0.15 (aluminium oxide: petroleum ether/ethyl acetate=2:3)

reactant | tert.butyl 4'-[(2-n-butyl-6-(N-methylaminocarbonyl-N-(3-cyclohexyl-n-propyl)-amino)-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2)N(CCCC2CCCCC2)C(=O)NC | C40H52N4O3
reactant | aluminium oxide | [O-2].[Al+3].[O-2].[O-2].[Al+3]
product | tert.butyl 4'-[(2-n-butyl-6-cyclohexylaminocarbonyloxy-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2)OC(=O)NC2CCCCC2 | C36H43N3O4
